### PR TITLE
[Merged by Bors] - feat: interaction of finite intervals and succ/pred

### PR DESCRIPTION
**Pull request by YaelDillies**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Interval/Finset/Nat.lean [hunk 1]
```diff
@@ -101,42 +101,51 @@ theorem card_fintypeIic : Fintype.card (Set.Iic b) = b + 1 := by
...
   rw [mem_Icc, mem_Ico, lt_iff_le_pred h]
 
+@[deprecated "Use `Finset.Ico_succ_succ_eq_Ioc`" (since := "2025-02-25")]
 theorem Ico_succ_succ : Ico a.succ b.succ = Ioc a b := by
   ext x
   rw [mem_Ico, mem_Ioc, succ_le_iff, Nat.lt_succ_iff]
 
+set_option linter.deprecated false in
 @[simp]
 theorem Ico_succ_singleton : Ico a (a + 1) = {a} := by rw [Ico_succ_right, Icc_self]
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Finset/Nat.lean:131]: Can't we just prove these using the new lemmas rather than adding a lint option here?

File: Mathlib/Order/Interval/Finset/Nat.lean [hunk 2]
```diff
@@ -101,42 +101,51 @@ theorem card_fintypeIic : Fintype.card (Set.Iic b) = b + 1 := by
...
   rw [← Icc_pred_right _ h, Icc_self]
 
+set_option linter.deprecated false in
 @[simp]
 theorem Ioc_succ_singleton : Ioc b (b + 1) = {b + 1} := by rw [← Nat.Icc_succ_left, Icc_self]
 
 variable {a b c}
 
+set_option linter.deprecated false in
 theorem Ico_succ_right_eq_insert_Ico (h : a ≤ b) : Ico a (b + 1) = insert b (Ico a b) := by
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Finset/Nat.lean:145]: The naming here is pretty confusing imo: some lemmas with `+ 1` are now written as "succ" and others as "add_one". A user shouldn't need to think "does this lemma hold for SuccAddOrder or not" to figure out what to search for the name... Compare this statement with `Ico_add_one_right_eq_Icc`, where the LHS is visually spelt exactly the same, but the symbol-read is different.

File: Mathlib/Order/Interval/Finset/SuccPred.lean [hunk 3]
```diff
@@ -0,0 +1,102 @@
...
+Copyright (c) 2025 Yaël Dillies. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yaël Dillies
+-/
+import Mathlib.Algebra.Group.Embedding
+import Mathlib.Algebra.Order.Interval.Set.Monoid
+import Mathlib.Algebra.Order.SuccPred
+import Mathlib.Order.Interval.Finset.Basic
+
+open Order
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Finset/SuccPred.lean:11]: Please add a module doc to this file.

File: Mathlib/Algebra/Order/Interval/Finset.lean
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Finset.lean:1]: I don't think the lemmas you're adding to this file really follow the pattern of being "algebra": they pretty clearly have more in common with the ones you're adding to SuccPred than the ones already in this file. What do you think of having them in SuccPred, or in a new file called SuccAddOrder?

**Review by b-mehta — COMMENTED** [review]
It's been a long time coming!

File: Mathlib/Algebra/Order/Interval/Finset.lean
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Interval/Finset.lean:1]: I've moved the lemmas to `Algebra.Order.Interval.Finset.SuccPred`

File: Mathlib/Order/Interval/Finset/Nat.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/Nat.lean:145]: I agree, but note that I am not generalising any lemma about `insert` in this PR. I was thinking of making that a second PR, unless you insist on generalising all lemmas here at once?

File: Mathlib/Order/Interval/Finset/Nat.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/Nat.lean:131]: Doing so increases imports quite a lot, which doesn't seem worth it?

Comment (b-mehta) [reply Mathlib/Order/Interval/Finset/Nat.lean:131]: Once the now-deprecated lemmas are deleted, what's the plan for these ones then? Unless you're planning to generalise these too (which would probably be the best option), you'll either need to increase the imports at some point anyway.

File: Mathlib/Order/Interval/Finset/Nat.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Order/Interval/Finset/Nat.lean:145]: I'm happy for it to be a second PR, but let's add a new TODO for this series. Presumably on line 128?

File: Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean [hunk 4]
```diff
@@ -0,0 +1,102 @@
...
+import Mathlib.Algebra.Group.Embedding
+import Mathlib.Algebra.Order.Interval.Set.Monoid
+import Mathlib.Algebra.Order.Interval.Finset.Basic
+import Mathlib.Algebra.Order.SuccPred
+import Mathlib.Order.Interval.Finset.SuccPred
+
+/-!
+# Finset intervals in a successor-predecessor order
+
+This files proves relations between the various finset intervals in a successor/predecessor order.
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean:15]: Let's make sure the docstring here isn't an exact copy of that in another file: it's a pretty bad sign for two different files to have identical docstrings! In addition, it would be nice to describe the distinction between the lemmas that should be in this file vs those that should be in the other Order/Interval/Finset/SuccPred file.

File: Mathlib/Algebra/Order/Interval/Finset/Basic.lean [hunk 5]
```diff
@@ -18,6 +18,7 @@ open Function OrderDual
 variable {ι α : Type*}
 
 namespace Finset
+
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Finset/Basic.lean:21]: accidental?

File: Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean [hunk 6]
```diff
@@ -0,0 +1,102 @@
+/-
+Copyright (c) 2021 Yaël Dillies. All rights reserved.
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean:2]:
```suggestion
Copyright (c) 2025 Yaël Dillies. All rights reserved.
```

File: Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean [hunk 7]
```diff
@@ -0,0 +1,102 @@
...
+import Mathlib.Algebra.Order.Interval.Set.Monoid
+import Mathlib.Algebra.Order.Interval.Finset.Basic
+import Mathlib.Algebra.Order.SuccPred
+import Mathlib.Order.Interval.Finset.SuccPred
+
+/-!
+# Finset intervals in a successor-predecessor order
+
+This files proves relations between the various finset intervals in a successor/predecessor order.
+-/
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean:16]: Let's have a TODO (in this one and the other file) for the half-infinite versions of these too.

File: Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean]: Whoops, copy pasta. What about now?

File: Mathlib/Order/Interval/Finset/Nat.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/Nat.lean:131]: No, I'll need to change imports in downstream files, but those lemma can probably simply be deleted

File: Mathlib/Order/Interval/Finset/Nat.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/Nat.lean:145]: I've added a TODO in the two module doc

File: Mathlib/Order/Interval/Finset/Nat.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/Nat.lean:131]: Deprecate it in favor of `Ico_succ_right_eq_Icc` + `Icc_self`, yes

Comment (b-mehta) [reply Mathlib/Order/Interval/Finset/Nat.lean:131]: So you want `Ico_succ_right_eq_Icc` to be simp? Are you sure about this?

Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/Nat.lean:131]: I'm not sure about, no, which is why I have neither generalised nor deprecated the lemma in the current PR

Comment (b-mehta) [reply Mathlib/Order/Interval/Finset/Nat.lean:131]: And that brings me back to the original question: What is the plan for these ones?

Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/Nat.lean:131]: "Think about them later"

Comment (b-mehta) [reply Mathlib/Order/Interval/Finset/Nat.lean:131]: Let's leave a comment/todo so that whoever comes to remove the deprecated lemmas knows what to do with them.

File: Mathlib/Order/Interval/Finset/SuccPred.lean [hunk 8]
```diff
@@ -0,0 +1,173 @@
...
+section PredOrder
+variable [PredOrder α] {a a : α}
+
+lemma Ioi_pred_eq_Ici_of_not_isMin (ha : ¬ IsMin a) : Ioi (pred a) = Ici a := by
+  ext x; rw [mem_Ioi, mem_Ici, pred_lt_iff_of_not_isMin ha]
+
+variable [NoMinOrder α]
+
+lemma Ioi_pred_eq_Ici (a : α) : Ioi (pred a) = Ici a :=
+  Ioi_pred_eq_Ici_of_not_isMin (not_isMin _)
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Finset/SuccPred.lean:169]:
```suggestion
lemma Ioi_pred_eq_Ici (a : α) : Ioi (pred a) = Ici a := Ioi_pred_eq_Ici_of_not_isMin (not_isMin _)
```

**Comment by sgouezel** [comment]
bors r-
Can you fix the build, and then send it back to bors?
bors d+
